US07968746B2
Oxidation as described in protocol B, using 68.4 mg (0.203 mmol) of precursor 6-hydroxy-N,N-bis(2-hydroxyethyl)-2,5,7,8-tetramethylchroman-2-carboxamide and 244 mg CAN (0.446 mmol) yielding 18.4 mg of 2-hydroxy-N,N-bis(2-hydroxyethyl)-2-methyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide as a yellow oil (25.7%).

reactant | 6-hydroxy-N,N-bis(2-hydroxyethyl)-2,5,7,8-tetramethylchroman-2-carboxamide | 0.203 mmol, 68.4 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)N(CCO)CCO)C)C | C18H27NO5
reactant | CAN | 0.446 mmol, 244 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
product | 2-hydroxy-N,N-bis(2-hydroxyethyl)-2-methyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide | 18.4 mg, 25.7% | OC(C(=O)N(CCO)CCO)(CCC1=C(C(C(=C(C1=O)C)C)=O)C)C | C18H27NO6
